US07888366B2
2,4-Difluorophenol (0.11 g, 0.83 mmol) and potassium carbonate were added to a cooled (0° C.) and stirred solution of 2-bromomethyl-6-nitrobenzonitrile [W. T. Ashton and J. B. Hynes, J. Med. Chem, 16, 1233 (1973)] (0.2 g, 0.83 mmol) in dimethylformamide under nitrogen atmosphere. The reaction mixture was stirred at 0° C. for 1.5 hours, then diluted with pyridine (1.5 mL), water, stirred for 1 hour, filtered and dried. Purification by silica gel chromatography (50% hexanes in dichloromethane) yielded 165 mg of 2-(2,4-difluorophenoxymethyl)-6-nitrobenzonitrile.

reactant | 2,4-Difluorophenol | 0.83 mmol, 0.11 g | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl-6-nitrobenzonitrile | 0.83 mmol, 0.2 g | BrCC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C8H5BrN2O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-(2,4-difluorophenoxymethyl)-6-nitrobenzonitrile | 165 mg | FC1=C(OCC2=C(C#N)C(=CC=C2)[N+](=O)[O-])C=CC(=C1)F | C14H8F2N2O3
